* eeschema netlist version 1.1 (spice format) creation date: tuesday 16 april 2013 02:25:09 pm ist
.include ua741.sub

* Plotting option vplot8_1
V_u1 6 5 0
V_u2 5 4 0
r2  1 4 100000
v1  3 0 100m
r1  6 3 1000
x1  5 0 1 ua741

.dc  v1 0e-00 100e-03 100e-06

* Control Statements 
.control
run
plot v(1) 
plot i(V_u1)
plot i(V_u2)
.endc
.end
